US06013662
A mixture of 3.2 cm3 of trifluoromethanesulphonic acid and of 3 cm3 of dichloromethane was added dropwise to a solution of 2.2 g of methyl(3aRS,4SR,7RS,7aRS)-2-benzyl-7-hydroxy-7-(2-methylphenyl)-4-phenyloctahydroisoindole-3a-carboxylate in 20 cm3 of dichloromethane maintained at a temperature in the region of 0° C. The reaction mixture was stirred for thirty minutes at a temperature in the region of 0° C. and twenty hours at a temperature in the region of 20° C. and then cooled to a temperature in the region of 0° C. The pH was then brought to 8 by addition of a normal aqueous sodium hydroxide solution. The aqueous phase was separated by settling and extracted with three times 50 cm3 of dichloromethane. The organic phases were combined, washed with three times 100 cm3 of distilled water and 100 cm3 of a saturated aqueous sodium chloride solution, dried over magnesium sulphate and concentrated under reduced pressure. 1.9 g of methyl(3aRS,4SR)-2-benzyl-7-(2-methylphenyl)-4-phenyl-1,3,3a,4,5,6-hexahydroisoindole-3a-carboxylate were thus obtained in the form of an oil, and used in the subsequent syntheses, the characteristics of which were as follows:

reactant | trifluoromethanesulphonic acid | 3.2 cm3 | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | methyl(3aRS,4SR,7RS,7aRS)-2-benzyl-7-hydroxy-7-(2-methylphenyl)-4-phenyloctahydroisoindole-3a-carboxylate | 2.2 g | COC(=O)C12CN(CC2C(CCC1C1=CC=CC=C1)(C1=C(C=CC=C1)C)O)CC1=CC=CC=C1 | C30H33NO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 3 cm3 | ClCCl | CH2Cl2
product | methyl(3aRS,4SR)-2-benzyl-7-(2-methylphenyl)-4-phenyl-1,3,3a,4,5,6-hexahydroisoindole-3a-carboxylate | 1.9 g | C(C1=CC=CC=C1)N1CC2=C(CCC(C2(C1)C(=O)OC)C1=CC=CC=C1)C1=C(C=CC=C1)C | C30H31NO2
